US03975537
2-Methylbenzofuran (7.25 g., 0.055 mol.) was acylated with 15.7 g. (0.092 mol.) of anisoyl chloride according to the procedure described in Example 10 to give 2-methyl-3-(4'-methoxybenzoyl)benzofuran.

reactant | 2-Methylbenzofuran | 0.055 mol, 7.25 g | CC=1OC2=C(C1)C=CC=C2 | C9H8O
reactant | anisoyl chloride | 0.092 mol | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
product | 2-methyl-3-(4'-methoxybenzoyl)benzofuran | CC=1OC2=C(C1C(C1=CC=C(C=C1)OC)=O)C=CC=C2 | C17H14O3
